US04861769
To a solution of ethyl 2-amidino-2-(cyclopropyloxyimino)acetate hydrochloride (syn isomer) (1.44 g) in methanol (11 ml) was added triethylamine (3.06 ml) at -15° C. To the solution was dropwise added bromine (852 mg) at -5° C. After the solution was stirred at -5° C. for 2 minutes, to the solution was added a solution of potassium thiocyanate (518 mg) in methanol (5 ml) at -5° C. The mixture was allowed to be stirred under ice-cooling for 2 hours. The mixture was concentrated in vacuo to give a residue. The residue was dissolved in ethyl acetate. The solution was washed successively with 1N hydrochloric acid, saturated aqueous solution of sodium bicarbonate, and saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo, and triturated with diethyl ether to give ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate (syn isomer)(769 mg) as a crystal.

reactant | ethyl 2-amidino-2-(cyclopropyloxyimino)acetate hydrochloride | 1.44 g | Cl.C(N)(=N)C(C(=O)OCC)=NOC1CC1
reactant | triethylamine | 3.06 ml | C(C)N(CC)CC | C6H15N
reactant | bromine | 852 mg | BrBr | Br2
reactant | potassium thiocyanate | 518 mg | [S-]C#N.[K+]
solvent | methanol | 11 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetate | 769 mg | NC1=NC(=NS1)C(C(=O)OCC)=NOC1CC1 | C9H12N4O3S
